US04386099
Sixty grams of 5-methyl-4-(4-nitrophenyl)-1-H-imidazole dissolved in methanol was hydrogenated in the presence of 0.7 gm of 5% Pd catalyst at atmospheric pressure and at room temperature. When the calculated amount of hydrogen was taken up, the catalyst was filtered off, and the solution was evaporated to dryness to yield 45 gm of 5-methyl-4-(4-aminophenyl)-1-H-imidazole.

reactant | 5-methyl-4-(4-nitrophenyl)-1-H-imidazole | Sixty grams | CC1=C(N=CN1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | Pd | 0.7 gm | [Pd] | Pd
product | 5-methyl-4-(4-aminophenyl)-1-H-imidazole | 45 gm | CC1=C(N=CN1)C1=CC=C(C=C1)N | C10H11N3
